US08217064B2
To a solution of 2-(3-chloro-5-cyclopropylmethoxy-4-iodo-phenyl)-4-methyl-pentanoic acid cyclopropylmethyl ester (0.09 g, 0.19 mmol) in DME (anhydrous, 10 mL) under argon atmosphere were added 4-trifluoromethylphenylboronic acid (0.04 g, 0.2 mmol), CsF (0.07 g, 0.46 mmol), and [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium (II) (0.06 g, 0.08 mmol). The reaction mixture was refluxed for 18 h (oil bath, 100° C.). A mixture of water and EtOAc (15 mL/15 mL) was added and the layers were separated. The organic phase was dried over MgSO4, then evaporated to give a crude yellow oil, which was purified by silica gel gradient column chromatography by use of Heptane-EtOAc (20:1-9:1) to give 2-(2-chloro-6-cyclopropylmethoxy-4′-trifluoromethyl-biphenyl-4-yl)-4-methyl-pentanoic acid cyclopropylmethyl ester (0.063 g, 70%) as a yellowish oil. 1H NMR (300 MHz, CDCl3/TMS): δ 7.66 (d, J=8.0 Hz, 2H), 7.43 (d, J=8.0 Hz, 2H), 7.08 (s, 1H), 6.88 (s, 1H), 4.01-3.86 (m, 2H), 3.77 (d, J=6.6 Hz, 2H), 3.65 (t, J=7.9 Hz, 1H), 2.04-1.95 (m, 1H), 1.71-1.62 (m, 1H), 1.59-1.48 (m, 1H), 1.20-1.02 (m, 2H), 0.96-0.94 (m, 6H), 0.56-0.46 (m, 4H), 0.27-0.25 (m, 2H), 0.16-0.15 (m, 2H). 13C NMR (75 MHz, CDCl3/TMS): δ 173.5, 157.0, 141.2, 138.9, 133.6, 130.8 (two signals), 127.8, 124.5 (q), 124.3 (q, 1JCF=271.0 Hz), 121.6, 111.0, 73.3, 69.7, 49.6, 42.7, 26.1, 22.6, 22.4, 10.0, 9.8, 3.3, 3.1.

reactant | 2-(3-chloro-5-cyclopropylmethoxy-4-iodo-phenyl)-4-methyl-pentanoic acid cyclopropylmethyl ester | 0.19 mmol, 0.09 g | C1(CC1)COC(C(CC(C)C)C1=CC(=C(C(=C1)OCC1CC1)I)Cl)=O | C20H26ClIO3
reactant | 4-trifluoromethylphenylboronic acid | 0.2 mmol, 0.04 g | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
reactant | CsF | 0.46 mmol, 0.07 g | [F-].[Cs+]
reactant | water | O | H2O
solvent | DME | 10 mL | COCCOC | C4H10O2
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium | 0.08 mmol, 0.06 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | EtOAc | 15 mL | CCOC(=O)C | C4H8O2
product | 2-(2-chloro-6-cyclopropylmethoxy-4′-trifluoromethyl-biphenyl-4-yl)-4-methyl-pentanoic acid cyclopropylmethyl ester | 0.063 g, 70% | C1(CC1)COC(C(CC(C)C)C1=CC(=C(C(=C1)OCC1CC1)C1=CC=C(C=C1)C(F)(F)F)Cl)=O | C27H30ClF3O3
